US07435837B2
Treatment of 2,6-dichlorobromobenzene (25.0 g, 0.110 mol) with 2-methoxybenzeneboronic acid (25.22 g, 0.166 mol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (2.33 g, 2.96 mmol), and potassium carbonate (34.15 g, 0.247 mmol) generally according to the procedure described for Intermediate 37 provided 21.5 g (77%) of 2′,6′-dichloro-1,1′-biphenyl-2-yl methyl ether. Treatment of 2′,6′-dichloro-1,1′-biphenyl-2-yl methyl ether (19.0 g, 75.06 mmol) with boron tribromide (18.78 g, 1.0 M in dichloromethane) generally according to the procedure described for Intermediate 163 provided 17.89 g (99%) of 2′,6′-dichloro-111′-biphenyl-2-ol as a light yellow solid. mp 100-103° C.; Anal. calcd. for C12H8Cl2O: C, 60.28H, 3.37. Found: C, 60.29; H, 3.13.

reactant | 2,6-dichlorobromobenzene | 0.110 mol, 25.0 g | ClC1=C(C(=CC=C1)Cl)Br | C6H3BrCl2
reactant | 2-methoxybenzeneboronic acid | 0.166 mol, 25.22 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 0.247 mmol, 34.15 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | 2.96 mmol, 2.33 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | 2′,6′-dichloro-1,1′-biphenyl-2-yl methyl ether | 21.5 g, 77% | COC=1C(=CC=CC1)C1=C(C=CC=C1Cl)Cl | C13H10Cl2O
